US06153585
To a 0.5M solution of 2-formamido-4-nitroanisole (745 mg, 3.8 mmol) in dioxane was added sodium borohydride (722 mg, 19 mmol) followed by dropwise addition of glacial acetic acid (1.09 mL, 19 mmol). The reaction mixture was refluxed for 40 minutes, then cooled to 0° C. and quenched slowly with MeOH. Excess MeOH was then added and the solution was concentrated under vacuum to yield 2-methylamino-4-nitroanisole. The crude product was dissolved in anhydrous MeOH (20 mL) and Pd/C (795 mg, 0.76 mmol) was added followed by bubbling hydrogen gas through the solution for 1 minute. The reaction mixture was then stirred for 1.5 h under 1 atmosphere of hydrogen. The reaction mixture was filtered through a pad of Celite and the filter pad was washed with MeOH (40 mL). To the combined filtrate and wash was added pentafluorophenylsulfonyl chloride (282 mL, 0.26 mmol). After stirring for 30 min the reaction mixture was concentrated under vacuum and purified by column chromatography (10-25% EtoAc in hexane) to yield 153 mg (21% for three steps) of the title compound as a pale yellow solid. 1H NMR (400 MHz, DMSO-d6) δ10.7 (s, 1H), 6.68 (d, J=8.4 Hz, 1H), 6.3 (dd, J=8.3, 2.5 Hz, 1H), 6.22 (d, J=2.2 Hz, 1H), 5.18 (bs, 1H), 3.7 (s, 3H), 2.6 (d, J=3Hz, 3H). MS(EI): m/z 785 (35, 2M+Na-2H), 382 (20, M+), 381 (100, M-H).

reactant | 2-formamido-4-nitroanisole | 3.8 mmol, 745 mg | C(=O)NC1=C(C=CC(=C1)[N+](=O)[O-])OC | C8H8N2O4
reactant | sodium borohydride | 19 mmol, 722 mg | [BH4-].[Na+]
reactant | acetic acid | 19 mmol, 1.09 mL | C(C)(=O)O | C2H4O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-methylamino-4-nitroanisole | CNC1=C(C=CC(=C1)[N+](=O)[O-])OC | C8H10N2O3
